* Qucs 26.1.1  /foss/designs/LNA/MkII/Schematic/Balun_Testing.sch
.INCLUDE "/foss/tools/qucs-s/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
.INCLUDE "/foss/pdks/ciel/gf180mcu/versions/026824c7969ce6f4fc9678e6ca04b0a06a596c4b/gf180mcuD/libs.tech/ngspice/design.ngspice"
.LIB "/foss/pdks/ciel/gf180mcu/versions/026824c7969ce6f4fc9678e6ca04b0a06a596c4b/gf180mcuD/libs.tech/ngspice/sm141064.ngspice" typical
.SUBCKT DiffPairBalun _net0 _net1 _net2 _net3 _net4 _net5 _net8 _net11 
X13 _net6  _net4  0  0 nfet_03v3 L=0.3u W=10.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X4 _net2  _net5  _net7  0 nfet_03v3 L=0.3u W=10.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X11 _net3  _net1  _net7  0 nfet_03v3 L=0.3u W=10.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X12 _net7  _net0  _net6  0 nfet_03v3 L=0.3u W=10.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X14 _net9  _net8  _net10  _net0 pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X15 _net0  _net11  _net9  _net0 pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X16 _net12  _net12  0  0 nfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X17 _net10  _net12  0  0 nfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X18 _net9  _net3  _net12  _net0 pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X19 _net13  _net8  _net14  _net0 pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X20 _net0  _net11  _net13  _net0 pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X21 _net15  _net15  0  0 nfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X22 _net14  _net15  0  0 nfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X23 _net13  _net2  _net15  _net0 pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X8 _net0  _net14  _net2  _net0 pfet_03v3 L=0.3u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
X7 _net0  _net10  _net3  _net0 pfet_03v3 L=0.3u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ENDS


R2 0 output_pos  50K tc1=0.0 tc2=0.0 
R3 0 output_neg  50K tc1=0.0 tc2=0.0 
C1 output_pos_dc output_pos  1P 
C2 output_neg_dc output_neg  1P 
V2 _net0 0 DC 1.5
R4 _net0 lna_output_dc  30K tc1=0.0 tc2=0.0 
C3 input lna_output_dc  1P 
V3 _net1 0 DC 5
V1 input 0 DC 0 SIN(0 1M 1.7G 0 0 0) AC 1M ACPHASE 0
X1 _net1  _net4  _net4  _net1 pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
I1 _net4 0 DC 20U
V4 _net2 0 DC 1.2
V5 _net3 0 DC 1.3
XSUB5 _net1 lna_output_dc output_pos_dc output_neg_dc _net3 _net2 _net2 _net4 DiffPairBalun

.control

tran 1.0005e-11 2e-08 0 
write spice4qucs.tr1.plot v(input) v(lna_output_dc) v(output_neg) v(output_neg_dc) v(output_pos) v(output_pos_dc)
destroy all
reset

op
print v(input) v(lna_output_dc) v(output_neg) v(output_neg_dc) v(output_pos) v(output_pos_dc)   > spice4qucs.dc1.ngspice.dc.print
destroy all
reset

exit
.endc
.END
