* inv -- flattened for sch-area-estimator (sizes in um)
X0 XM1 gf180mcu_fd_pr__nfet_06v0 w=2 l=0.7 nf=1 m=1
X1 XM2 gf180mcu_fd_pr__pfet_06v0 w=5 l=0.55 nf=1 m=1
